US09062085B2
Preparation of diethyl 2-bromo-3,5-dimethoxyphenylphosphonate
N-Bromosuccinimide (NBS) (8.9 g, 50 mmol) was added to the solution of diethyl 3,5-dimethoxyphenylphosphonate (12.5 g, 45.6 mmol) in CH2Cl2 (150 ml) at 0° C. The resulting suspension was stirred at 0° C. for 6 h. Na2CO3 (saturated, 60 ml) was added to quench the reactions. It was stirred at RT for 30 min, the organic layer was separated and the aqueous layer was extracted with CH2Cl2 (80 ml×1). The combined organic layer was washed with brine and dried over MgSO4. It was filtered and the solvent was removed to give the crude product as a pale yellow oil (14 g, 87% yield). It was sufficiently pure enough for the next step. The pure sample was obtained by chromatography. 1H NMR (300 MHz, CD2Cl2) δ: 7.16 (dd, J1=3.0 Hz, J2=15.3 Hz, 1H), 6.67 (d, J=3.0 Hz, 1H), 4.20-4.06 (m, 4H), 3.89 (s, 3H), 3.85 (s, 3H), 1.34 (t, J=7.2 Hz, 6H). 31P NMR (121.5 MHz, CD2Cl2) δ: 15.59. 13C NMR (75.5 MHz, CD2Cl2) δ: 159.77 (d, Jc-p=20.0 Hz), 157.66 (d, Jc-p=19.0 Hz), 131.49 (d, Jc-p=189.2 Hz), 112.04 (d, Jc-p=8.7 Hz), 105.52 (d, Jc-p=4.5 Hz), 103.51 (d, Jc-p=2.9 Hz), 62.73, 62.66, 56.78, 55.96, 16.34, 16.26.

reactant | N-Bromosuccinimide | 50 mmol, 8.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | diethyl 3,5-dimethoxyphenylphosphonate | 45.6 mmol, 12.5 g | COC=1C=C(C=C(C1)OC)P(OCC)(OCC)=O | C12H19O5P
reactant | Na2CO3 | 60 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | diethyl 2-bromo-3,5-dimethoxyphenylphosphonate | 14 g, 87% yield | BrC1=C(C=C(C=C1OC)OC)P(OCC)(OCC)=O | C12H18BrO5P
